US06756380B1
c) 5-(2-Chloro-phenyl)-2-hydroxymethyl-pyrimidine-4-carboxylic acid
To a solution of 3.40 g (11.6 mmol) (2-chloro-phenyl)-2-hydroxymethyl-pyrimidine-4-carboxylic acid ethyl ester in 15 ml ethanol 0.69 g (17.42 mmol) NaOH in 15 ml H2O was added and the mixture stirred for 1 hr. The pH of the solution was adjusted to 1 and the solid was filtered off to give after drying 2.80 g (91%) 5-(2-chloro-phenyl)-2-hydroxymethyl-pyrimidine-4-carboxylic acid as a pale brown solid.

reactant | (2-chloro-phenyl)-2-hydroxymethyl-pyrimidine-4-carboxylic acid ethyl ester | 11.6 mmol, 3.40 g | C(C)OC(=O)C1=NC(=NC=C1C1=C(C=CC=C1)Cl)CO | C14H13ClN2O3
reactant | ethanol | 17.42 mmol, 15 ml, 0.69 g | C(C)O | C2H6O
solvent | H2O | 15 ml | O | H2O
product | 5-(2-Chloro-phenyl)-2-hydroxymethyl-pyrimidine-4-carboxylic acid | ClC1=C(C=CC=C1)C=1C(=NC(=NC1)CO)C(=O)O | C12H9ClN2O3
